US06417200B1
E) 3-cyano-4-(N,N-bis(t-butoxycarbonyl)aminomethyl)benzoic acid
To a −25° C. solution of methyl 3-cyano-4-(N,N-bis-(t-butoxycarbonyl)aminomethyl)benzoate (1.81 g, 4.64 mmol) in THF (14 mL) was added a 1:1 mixture of MeOH (4.6 mL) and 1 M LiOH (4.6 mL). After 1.25 h, the reaction was quenched with 1 N HCl (4.6 mL), diluted with Et2O (150 mL) and washed with H2O (2×30 mL). The combined aqueous layers was extracted with EtOAc (150 mL). The combined organic layers was MgSO4 dried, filtered, and concentrated. The crude material was chromatographed (0.5% HOAc in 30% EtOAc/hexanes to 0.5% HOAc in 40% EtOAc/hexanes) to give the title compound (767 mg, 44%); IR(CHCl3): 1146, 1370, 1704, 2984, 3020 cm−1; NMR(300 MHz, DMSO-d6): 1.36 (s, 18H); 4.93 (s, 2H); 7.41 (d, 1H, J=8.4 Hz); 8.21 (d, 1H, J=8.4 Hz); 8.25 (s, 1H); MS(FD): 377.0.

reactant | methyl 3-cyano-4-(N,N-bis-(t-butoxycarbonyl)aminomethyl)benzoate | 4.64 mmol, 1.81 g | C(#N)C=1C=C(C(=O)OC)C=CC1CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C20H26N2O6
reactant | MeOH | 4.6 mL | CO | CH4O
reactant | LiOH | 1 M, 4.6 mL | [Li+].[OH-]
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | 3-cyano-4-(N,N-bis(t-butoxycarbonyl)aminomethyl)benzoic acid | 767 mg, 44% | C(#N)C=1C=C(C(=O)O)C=CC1CN(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C19H24N2O6
